US05298652
Sodium hydroxide hydrolysis of N-(2-ethoxy-2-oxoethyl)-N-[3,5-bis(1-oxohexadecylamino)benzoyl]glycine ethyl ester as in Example 56 and recrystallization from methanol-water gave N-(carboxymethyl)-N-[3,5-bis(1-oxohexadecylamino)benzoyl]glycine, mp 129°-133°.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | N-(2-ethoxy-2-oxoethyl)-N-[3,5-bis(1-oxohexadecylamino)benzoyl]glycine ethyl ester | C(C)OC(CN(C(C1=CC(=CC(=C1)NC(CCCCCCCCCCCCCCC)=O)NC(CCCCCCCCCCCCCCC)=O)=O)CC(=O)OCC)=O | C47H81N3O7
product | N-(carboxymethyl)-N-[3,5-bis(1-oxohexadecylamino)benzoyl]glycine | C(=O)(O)CN(CC(=O)O)C(C1=CC(=CC(=C1)NC(CCCCCCCCCCCCCCC)=O)NC(CCCCCCCCCCCCCCC)=O)=O | C43H73N3O7
